US06787651B2
Benzenesulfonamide (155 mg, 1.0 mmol), 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide hydrochloride (96 mg, 0.50 mmol), and 4-(dimethylamino)pyridine (20 mg, 0.16 mmol) were added to a stirred solution of 3-(4-methoxyphenyl)-1-{[3-(trifluoromethyl)phenyl]methyl}indole-2-carboxylic acid (Lit: WO94/14434, 213 mg, 0.50 mmol in dichloromethane (5 mL). The resulting mixture was stirred for 18 h and then quenched with hydrochloric acid (1N). The mixture was extracted with ethyl acetate (2×20 mL) and the combined organic extracts was washed with brine, dried over anhydrous sodium sulfate, and concentrated in vacuo. The residue was purified with silica gel flash chromatography using hexane/ethyl acetate (2/1) as the eluant to give a white solid. It was further purified by trituration with diethyl ether to afford (3-(4-methoxyphenyl)-1-{[3-(trifluoromethyl)phenyl]methyl}indol-2-yl)-N-(phenylsulfonyl) carboxamide as a white solid (220 mg, 78%): mp>250° C.; MS (electrospray, MH+) calcd for C30H24F3N2O4S 565.1, found 565.0; 1H NMR (DMSO-d6) δ 7.51-8.31 (m, 17 H), 7.03 (br s, 1H), 6.17 (s, 2H), 4.36 (s, 3H).

reactant | Benzenesulfonamide | 1.0 mmol, 155 mg | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide hydrochloride | 0.50 mmol, 96 mg | Cl.CN(CCCN=C=NCC)C
reactant | 3-(4-methoxyphenyl)-1-{[3-(trifluoromethyl)phenyl]methyl}indole-2-carboxylic acid | COC1=CC=C(C=C1)C1=C(N(C2=CC=CC=C12)CC1=CC(=CC=C1)C(F)(F)F)C(=O)O | C24H18F3NO3
catalyst | 4-(dimethylamino)pyridine | 0.16 mmol, 20 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (3-(4-methoxyphenyl)-1-{[3-(trifluoromethyl)phenyl]methyl}indol-2-yl)-N-(phenylsulfonyl) carboxamide | 220 mg, 78% | COC1=CC=C(C=C1)C1=C(N(C2=CC=CC=C12)CC1=CC(=CC=C1)C(F)(F)F)C(=O)NS(=O)(=O)C1=CC=CC=C1 | C30H23F3N2O4S
